US04116951
Boc-Ala-Glu(OBzl)-OH
H-Glu(OBzl)-OH (7.0 g, 29.5 mmol) was finely ground in a mortar and pestle and then stirred with 8.88 g (32.3 mmol) of Boc-Ala-OSu for 48 hours in 250 ml DMF in the presence of 6 ml N-methylmorpholine (NMM). Some more NMM was added to maintain the reaction slightly basic during the reaction. The solvent was evaporated and the residue partitioned between 30 ml ethyl acetate and 500 ml H2O containing 2 ml of 10% H2SO4. The organic layer was then washed three times with water, dried(Na2SO4) and evaporated to dryness. The product was taken up in a small volume of ether and treated with a large volume of petroleum ether. A white amorphous solid was obtained which was homogeneous on tlc: Yield, 11.0 g (91.5%); mp 84°-88°; [α]D25 = -8.08° (c l, DMF).

reactant | H-Glu(OBzl)-OH | 29.5 mmol, 7.0 g | N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O | C12H15NO4
reactant | Boc-Ala-OSu | 32.3 mmol, 8.88 g | N([C@@H](C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C12H18N2O6
reactant | N-methylmorpholine | 6 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Boc-Ala-Glu(OBzl)-OH | N([C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C20H28N2O7
